US07795236B2
3-[3-(tert-Butyldimethylsilyloxy)propylsulfanyl]-4-phenyl-benzonitrile
To a solution of 3-mercapto-4-phenylbenzonitrile (0.44 g) in N,N-dimethylformamide (5.0 mL) was added potassium carbonate (0.43 g). Then (3-bromopropoxy)-tert-butyldimethylsilane (0.72 mL) was added, and the resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was partitioned between diethyl ether (55 mL) and water (10 mL). The organic layer was washed with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethylacetate=3/2) to give the title compound (0.8 g).

reactant | 3-mercapto-4-phenylbenzonitrile | 0.44 g | SC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C13H9NS
reactant | potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 0.72 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 3-[3-(tert-Butyldimethylsilyloxy)propylsulfanyl]-4-phenyl-benzonitrile | 0.8 g | [Si](C)(C)(C(C)(C)C)OCCCSC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C22H29NOSSi
